US06838463B2
In 4 ml of tetrahydrofuran was suspended 0.2 g of sodium hydride (60% in oil), to which 1 ml of a tetrahydrofuran solution containing 0.39 g of cis-1,2-cyclohexanediol was slowly added dropwise with stirring at room temperature. The mixture was stirred at room temperature for 10 minutes and then cooled to 0° C., to which 2 ml of a tetrahydrofuran solution containing 0.5 g of 4,6-dichloropyrimidine was slowly added dropwise, followed by further stirring at 0° C. for 30 minutes. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with ethyl acetate. The organic layers were combined, washed with brine, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.42 g of 4-chloro-6-(cis-2-hydroxycyclohexyloxy)pyrimidine.

reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | cis-1,2-cyclohexanediol | 0.39 g | [C@@H]1([C@H](CCCC1)O)O | C6H12O2
reactant | 4,6-dichloropyrimidine | 0.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(cis-2-hydroxycyclohexyloxy)pyrimidine | 0.42 g | ClC1=NC=NC(=C1)O[C@H]1[C@H](CCCC1)O | C10H13ClN2O2
